US04284642
A mixture of 46.3 g (0.205 moles) of N-(β-chloropropyl)-2,6-diethyl-aniline, obtained as indicated in point (b) above, 61.2 g (0.41 moles) of 2,6-diethylaniline and 1.66 g (10 mmoles) of potassium iodide is stirred at 140° to 145° C. for 4 hours under nitrogen atmoshere. The mixture is allowed to cool, 150 ml of isopropanol are added, and the resulting mixture is stirred at 0° to +5° C. for 2 hours. The separated 2,6-diethyleniline hydrochloride (19.2 g, 25.2%) is filtered off, washed with cold isopropanol and dried. The filtrate is acidified with isopropanolic hydrochloric acid (acid content: about 15 g/100 ml), the separated precipitate is filtered off, washed with cold isopropanol and dried. The resulting crude substance, weighing 72 g, is recrystallized from methanol to obtain 29.4 g (34.8%) of 1,2-bis(2',6'-diethylphenyl-amino)-propane dihydrochloride as a uniform substance; m.p.: 161°-167° C. The base is liberated from this salt as described in point (c) of Example 16 and isolated from the reaction mixture by extraction with chloroform.

reactant | N-(β-chloropropyl)-2,6-diethyl-aniline | 0.205 moles, 46.3 g | ClC(CNC1=C(C=CC=C1CC)CC)C | C13H20ClN
reactant | 2,6-diethylaniline | 0.41 moles, 61.2 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | potassium iodide | 10 mmoles, 1.66 g | [I-].[K+]
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 1,2-bis(2',6'-diethylphenyl-amino)-propane dihydrochloride | 29.4 g, 34.8% | Cl.Cl.C(C)C1=C(C(=CC=C1)CC)NCC(C)NC1=C(C=CC=C1CC)CC | InChI=1S/C23H34N2.2ClH/c1-6-18-12-10-13-19(7-2)22(18)24-16-17(5)25-23-20(8-3)14-11-15-21(23)9-4;;/h10-15,17,24-25H,6-9,16H2,1-5H3;2*1H
